US06995144B2
2-tert-Butoxy-6-vinylpyrazine
After dissolving 5.25 g of 2-tert-butoxy-6-chloropyrazine in 80 ml of N,N-dimethylformamide, 9.66 g of tributyl(vinyl)tin and 0.97 g of dichlorobis(triphenylphosphine)palladium(II) were added and the mixture was stirred for 8 hours and 30 minutes at 80° C. under a nitrogen atmosphere. Saturated brine and ethyl acetate were added to the reaction solution, and the insoluble portion was filtered off. The ethyl acetate layer was washed with water and saturated brine in that order and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (4.24 g, 85% yield).

reactant | 2-tert-butoxy-6-chloropyrazine | 5.25 g | C(C)(C)(C)OC1=NC(=CN=C1)Cl | C8H11ClN2O
reactant | tributyl(vinyl)tin | 9.66 g | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.97 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-tert-Butoxy-6-vinylpyrazine | 4.24 g, 85% yield | C(C)(C)(C)OC1=NC(=CN=C1)C=C | C10H14N2O
